US20010009912A1
A solution of 5.2 g 4-(2-hydroxy-ethyl)-cyclohexanone, 6.8 g imidazole and 6 g tert.-butyldimethylsilyl chloride in 50 ml dimethylformamide is stirred for 2 h at room temperature. Afterwards the solution is concentrated in a vacuum, the residue is taken up in 10 ml water and the aqueous solution is extracted three times with 10 ml diethyl ether each time. After drying the combined organic phases over sodium sulfate and removing the solvent, the crude product is purified by column chromatography (silica gel, ethyl acetate/isohexane= 1/8). 7 g 4-[2-(tert.-butyl-dimethyl-silanyloxy)-ethyl] -cyclohexanone is obtained in this way as a colourless oil. 1H-NMR (CDCl3): δ=3.65 ppm (t, 2H); 2.35 (m, 4H); 2.05 (m, 2H); 1.85 (m, 1H); 1.50 (q, 2H); 1.38 (m, 2H); 0.85 (s, 9H); 0.00 (s, 6H).

reactant | 4-(2-hydroxy-ethyl)-cyclohexanone | 5.2 g | OCCC1CCC(CC1)=O | C8H14O2
reactant | imidazole | 6.8 g | N1C=NC=C1 | C3H4N2
reactant | tert.-butyldimethylsilyl chloride | 6 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[2-(tert.-butyl-dimethyl-silanyloxy)-ethyl] -cyclohexanone | 7 g | C(C)(C)(C)[Si](OCCC1CCC(CC1)=O)(C)C | C14H28O2Si
